US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1245)
Hydrogen chloride was passed through a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(methoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)piperidine hydrochloride (2.0 g) in ethanol (5.0 ml) with stirring at 0° C. for one hour, and the resulting mixture was stirred at room temperature under tightly sealed condition for 4 hours. After the reaction mixture was concentrated under reduced pressure, the residue was purified using preparative HPLC [YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N aqueous hydrochloric acid solution (33:67, v/v)]. The eluate was treated with hydrogen chloride (4 N dioxane solution, 2 ml). The solvent and excess hydrogen chloride were removed under reduced pressure to afford the title compound (1.29 g, yield: 68%) as a colourless amorphous solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(methoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)piperidine hydrochloride | 2.0 g | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=CN=NN1CCC(=O)OC
reactant | ethanol | 5.0 ml | C(C)O | C2H6O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 1.29 g, yield: 68% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=CN=NN1CCC(=O)OCC)=O | InChI=1S/C24H29FN4O3S.ClH/c1-2-32-22(30)10-12-29-18(14-26-27-29)13-17-15-28(11-9-21(17)33)23(24(31)16-7-8-16)19-5-3-4-6-20(19)25;/h3-6,13-14,16,21,23,33H,2,7-12,15H2,1H3;1H/b17-13+;
